US07576115B2
4) Synthesis of methyl 2-fluoro-4-hydrazinocarbonylbenzoate
From 3-fluoro-4-methoxycarbonylbenzoic acid (198 mg, 1 mmol), 1-hydroxybenzotriazole (HOBt) (135 mg, 1 mmol), 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride (WSC) (249 mg, 1.3 mmol) and hydrazine monohydrate (73 μL, 1.5 mmol), 45.6 mg of the desired product was obtained in the same manner as in Reference Synthesis Example 50 as a white solid (yield 22%).

reactant | 3-fluoro-4-methoxycarbonylbenzoic acid | 1 mmol, 198 mg | FC=1C=C(C(=O)O)C=CC1C(=O)OC | C9H7FO4
reactant | 1-hydroxybenzotriazole | 1 mmol, 135 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride | 1.3 mmol, 249 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydrazine monohydrate | 1.5 mmol, 73 μL | O.NN
product | methyl 2-fluoro-4-hydrazinocarbonylbenzoate | 45.6 mg | FC1=C(C(=O)OC)C=CC(=C1)C(=O)NN | C9H9FN2O3
